US08252833B2
Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate
A mixture of 1,4-bis(ethyloxy)-2,3-naphthalenedicarboxylic acid sodium salt (526 g, 1.51 mol) and ethyl (4-amino-2-fluorophenyl)acetate (539 g, 2.73 mol) in glacial acetic acid (5100 mL) was heated to reflux for 6 hours, with reaction progress monitored by 1H-nmr spectroscopy. The reaction mixture was allowed to cool to room temperature, stirred for 18 hours, diluted with water (14 L) and stirred for a further 30 minutes. The product was isolated by filtration, washed with water (5 L) and dried in a vacuum oven at 60° C. to give the desired product as an off-white solid (587 g, 84% yield).

reactant | 1,4-bis(ethyloxy)-2,3-naphthalenedicarboxylic acid sodium salt | 1.51 mol, 526 g | [Na+].C(C)OC1=C(C(=C(C2=CC=CC=C12)OCC)C(=O)[O-])C(=O)[O-].[Na+]
reactant | ethyl (4-amino-2-fluorophenyl)acetate | 2.73 mol, 539 g | NC1=CC(=C(C=C1)CC(=O)OCC)F | C10H12FNO2
solvent | acetic acid | 5100 mL | C(C)(=O)O | C2H4O2
solvent | water | 14 L | O | H2O
product | Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate | 587 g, 84% yield | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=CC(=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H24FNO6
